* C:\Users\sever\Documents\GEN-UE\UE03\ltspice\Assignment3.asc
R1 0 N008 2
R2 N003 N001 4
R3 N002 N003 3
R4 N006 N007 2
R5 N004 N005 3
R6 N005 0 5
L1 N007 0 5mH
I_s2 N002 N001 0.3
V§U_s3 N005 0 1
V§U_s1 N008 N003 4
S1 N002 N006 S1+ 0 sw_settings
S2 N004 N006 S2+ 0 sw_settings
V_S1 S1+ 0 PWL(0ms 1 0.99999ms 1 1ms 0)
V_S2 S2+ 0 PWL(0ms 0 0.99999ms 0 1ms 1)
.tran 0 6ms 0 10us
.model sw_settings SW(Ron=1n Roff=10Meg Vt = 0.5 Vh=0)
.backanno
.end
