* C:\Users\sever\Documents\GEN-UE\UE01\ltspice\Draft2.asc
R1 N004 0 2
R2 N003 N001 4
R3 N003 N002 3
R4 N004 N002 2
V1 0 N003 4
I1 N002 N001 0.3
.op
.backanno
.end
