* Z:\home\max\TU\rollin\GEN\UE07\ltspice\Draft1.asc
R1 N001 0 8
R2 N001 N002 2
R3 0 N001 2
C1 N001 0 450µ IC=1
L1 0 N001 6m IC=0
L2 N002 0 3m IC=1
V1 NC_01 NC_02 SINE(0 15 159.1549 0 0 0 10)
.tran .02
.backanno
.end
