* Z:\home\max\TU\rollin\GEN\UE09\UE9_circuit.asc
R1 N001 V_in 50
L1 N001 0 20m
R2 N001 0 2k
R3 V_out 0 600
C1 V_out N001 400µ
V1 V_in 0 AC 1 0
.ac list {w/(2*pi)}
.step dec param w 1 1Meg 100
.backanno
.end
