* Z:\home\max\TU\rollin\GEN\UE05\ltspice\assignment4_sim.asc
C1 N002 N003 5.77µ
R1 N002 N003 100
V1 N001 0 SINE(0 10 159.15) AC 10 0
L1 N002 N001 70m
L2 N003 0 0L
.ac list 159.15
.backanno
.end
